US04215037
(1) Z-Thr(But)-Ser(But)-OH
12.8 ml (0.1 mol) of N-ethylmorpholine and 40.6 g (0.1 mol) of Z-Thr(But)-OSu (Hoppe Seyler's Z.Physiol. Chem. 346, page 60, (1966)) were added at 0° C. to a suspension of 16.1 g (0.1 mol) of H-Ser(But)-OH (Chem. Ber. 97, page 2490 (1964)) in 100 ml of dimethylformamide, the mixture was stirred for 5 hours at room temperature and left to stand at room temperature overnight. When no H-Ser(But)-OH could be detected by thin layer chromatography, undissolved matter, if any, was filtered off, the filtrate was concentrated and the residue was partitioned between ether and 110 ml of 1 N citric acid. The ethereal phase was washed once again with 100 ml of 0.5 N citric acid and then washed neutral with water or NaCl solution. The ethereal phase was dried over Na2SO4, concentrated and dried in a high vacuum. Yield 32.5 g of an amorphous product (72%).

reactant | N-ethylmorpholine | 0.1 mol, 12.8 ml | C(C)N1CCOCC1 | C6H13NO
reactant | Z-Thr(But)-OSu | 0.1 mol, 40.6 g | N([C@@H]([C@H](OC(C)(C)C)C)C(=O)ON1C(=O)CCC1=O)C(=O)OCC1=CC=CC=C1 | C20H26N2O7
reactant | H-Ser(But)-OH | 0.1 mol, 16.1 g | N[C@@H](COC(C)(C)C)C(=O)O | C7H15NO3
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Z-Thr(But)-Ser(But)-OH | N([C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C23H36N2O7
